US07125901B2
A mixture of N-{4-[(Z)-2-(4-cyanophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide and N-{4-[(E)-2-(4-cyanophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide (Z:E=3:1) (1.5 g), 10% palladium on carbon (323 mg), methanol (20 ml), tetrahydrofuran (10 ml) and acetic acid (5 ml) were combined. The reaction mixture was stirred under 4 atm hydrogen at ambient temperature for 9 hours, and filtered through a celite pad. The filtrate was concentrated in vacuo. The residue was purified by flash column chromatography over silica gel with n-hexane/ethyl acetate (1:1)→chloroform/methanol (30:1) as an eluent, and triturated with ethyl ether to give N-{4-[2-(4-cyanophenyl)ethyl]-1,3-thiazol-2-yl}acetamide (1.18 g) as a colorless solid.

reactant | N-{4-[(Z)-2-(4-cyanophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide | C(#N)C1=CC=C(C=C1)\C=C/C=1N=C(SC1)NC(C)=O | C14H11N3OS
reactant | N-{4-[(E)-2-(4-cyanophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide | 1.5 g | C(#N)C1=CC=C(C=C1)/C=C/C=1N=C(SC1)NC(C)=O | C14H11N3OS
reactant | methanol | 20 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 323 mg | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-{4-[2-(4-cyanophenyl)ethyl]-1,3-thiazol-2-yl}acetamide | 1.18 g | C(#N)C1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H13N3OS
